US05516774
N-[4-(5H-pyrrolo[1.2-a]thieno[3,2-e][1,4]-diazepin-4(10H)-ylcarbonyl)phenyl]-2-methylbenzamide
To a stirred solution of 3 mmol of 2-methylbenzoyl chloride in 10 ml of methylene chloride is added 5 mmol of triethylamine and 3 mmol of 4,10-dihydro-4-(4-aminobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e] [1,4]diazepine. The mixture is stirred for 5 hours. The reaction mixture is washed with water, 2N citric acid, NaHCO3, and brine. The reaction mixture is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give the desired product as a solid, m.p. 162°-188° C. (amorphous)

reactant | 2-methylbenzoyl chloride | 3 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | 4,10-dihydro-4-(4-aminobenzoyl)-5H-pyrrolo-[1,2-a]thieno[3,2-e] [1,4]diazepine | 3 mmol | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CS4)C=CC3)C=C1 | C17H15N3OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-pyrrolo[1.2-a]thieno[3,2-e][1,4]-diazepin-4(10H)-ylcarbonyl)phenyl]-2-methylbenzamide | S1C=CC=2N(CC=3N(CC21)C=CC3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C25H21N3O2S
